US04010279
Ethyl 2-Methyl-2-{4-[2-(2-methyl-benzamido)-ethyl]-biphenyl-4'-oxy}-propionate was prepared from 4-[2-(2-methyl-benzamido)-ethyl]-4'-hydroxy-biphenyl and ethyl 2-bromo-2-methyl-propionate analogous to Example 1. Yield: 20% of theory; m.p. <20° C

reactant | 4-[2-(2-methyl-benzamido)-ethyl]-4'-hydroxy-biphenyl | CC1=C(C(=O)NCCC2=CC=C(C=C2)C2=CC=C(C=C2)O)C=CC=C1 | C22H21NO2
reactant | ethyl 2-bromo-2-methyl-propionate | BrC(C(=O)OCC)(C)C | C6H11BrO2
product | Ethyl 2-Methyl-2-{4-[2-(2-methyl-benzamido)-ethyl]-biphenyl-4'-oxy}-propionate | Yield: 20% | CC(C(=O)OCC)(C)OC1=CC=C(C=C1)C1=CC=C(C=C1)CCNC(C1=C(C=CC=C1)C)=O | C28H31NO4
